US09145411B2
Step 2: tert-butyl (5-(7-(3-(2-(4-hydroxypiperidin-1-yl)acetamido)phenyl)-4-morpholino-pyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate
To a 25 mL round bottom flask, 4-hydroxy piperidine (0.021 g, 0.00021 mol) and DMF (1.5 mL) were added and then cooled to 0-10° C. To the same reaction flask, potassium carbonate (0.058 g, 0.00042 mol) was added and the reaction mixture was stirred at 0-10° C. for 30 minutes. To the same flask, a solution of tert-butyl (5-(7-(3-(2-chloroacetamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate (0.08 g, 0.00014 mol) in DMF (1 mL) was added and then stirred at room temperature for 12 hours. The reaction was quenched with water to provide the precipitate. The precipitate was collected by filtration to provide the title compound (0.078 g, 88%). The compound was used in the next step without purification. 1H NMR (300 MHz, DMSO-d6): δ 10.43 (s, 1H), 9.84 (s, 1H), 9.49 (s, 1H), 9.12 (d, J=2.1 Hz, 1H), 8.38 (s, J=2.1 Hz, 1H), 8.21 (br s, 1H), 7.87 (d, J=7.8 Hz, 1H), 7.68 (d, J=7.8 Hz, 1H), 7.54 (t, J=8.1 Hz, 1H), 4.63 (d, J=3.9 Hz, 1H), 4.58 (br s, 4H), 3.84 (s, 4H), 3.51-3.49 (m, 1H), 3.28 (s, 2H), 3.13-2.75 (m, 2H), 2.29 (t, J=8.7 Hz, 2H), 1.78 (d, J=9.3 Hz, 2H), 1.58 (d, J=9.3 Hz, 2H), 1.49 (s, 9H): LCMS (ESI): Calculated. 641.3, Observed mass [M+H]+: 642.2, (RT=0.22 min).

reactant | 4-hydroxy piperidine | 0.00021 mol, 0.021 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 0.00042 mol, 0.058 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl (5-(7-(3-(2-chloroacetamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.00014 mol, 0.08 g | ClCC(=O)NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C28H29ClN8O4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | tert-butyl (5-(7-(3-(2-(4-hydroxypiperidin-1-yl)acetamido)phenyl)-4-morpholino-pyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.078 g, 88% | OC1CCN(CC1)CC(=O)NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C33H39N9O5
